US06872823B1
Methyl 2-(2,3,4-trifluoroanilino)propionate
2,3,4-Trifluoronitrobenzene (100 g) and methyl pyruvate (57.6 g) were dissolved in methanol (1000 ml). After adding 5% Pd-C (20.0 g) and anhydrous magnesium sulfate (90 g), the mixture was stirred at room temperature in a hydrogen atmosphere for 16 hours. Then the liquid reaction mixture was filtered through celite to thereby eliminate Pd-C and magnesium sulfate. The obtained filtrate was concentrated under reduced pressure and Florisil (100 g) and diethyl ether (700 ml) were added to the residue. After stirring for 2 hours, the liquid reaction mixture was filtered. The obtained organic layer was evaporated and the crystals thus precipitated were filtered while washing with hexane. Thus the title compound (128.2 g) was obtained as slightly yellowish crystals.

reactant | 2,3,4-Trifluoronitrobenzene | 100 g | FC1=C(C=CC(=C1F)F)[N+](=O)[O-] | C6H2F3NO2
reactant | methyl pyruvate | 57.6 g | C(C(=O)C)(=O)OC | C4H6O3
reactant | magnesium sulfate | 90 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 1000 ml | CO | CH4O
catalyst | Pd-C | 20.0 g | [Pd] | Pd
product | Methyl 2-(2,3,4-trifluoroanilino)propionate | 128.2 g | FC1=C(NC(C(=O)OC)C)C=CC(=C1F)F | C10H10F3NO2
